US08039472B2
A solution of [(R)-4-(4-tert-Butoxy-phenyl)-1-carbamoyl-butyl]-carbamic acid tert-butyl ester (167 g, 458 mmol) in 1 M HCl in Et2O (4000 ml) is stirred at room temperature for 3 days. After this time, a white solid forms which is collected by filtration and washed with Et2O to yield (R)-2-Amino-5-(4-hydroxy-phenyl)-pentanoic acid amide; [M+H]+ 209

reactant | [(R)-4-(4-tert-Butoxy-phenyl)-1-carbamoyl-butyl]-carbamic acid tert-butyl ester | 458 mmol, 167 g | C(C)(C)(C)OC(N[C@H](CCCC1=CC=C(C=C1)OC(C)(C)C)C(N)=O)=O | C20H32N2O4
solvent | HCl | 1 M | Cl | ClH
solvent | Et2O | 4000 ml | CCOCC | C4H10O
product | (R)-2-Amino-5-(4-hydroxy-phenyl)-pentanoic acid amide | N[C@@H](C(=O)N)CCCC1=CC=C(C=C1)O | C11H16N2O2
